US06894061B2
3-[(3,9-Difluoro-6-methylphenanthridin-5(6H)-yl)sulfonyl]phenol
The title compound was prepared from 3,9-difluoro-5-[(3-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine (150 mg, 0.37 mmol), cyclohexene (757 μL, 7.5 mmol), and 1.0 M solution of boron tribromide in dichloromethane (2.24 mL) according to the procedure and in the same manner as described in Example 105, step e. The volatile components were removed in vacuo, and the crude residue was purified by preparative liquid chromatography on a Biotage® 40 Mi column of prepacked silica gel (90 g), eluting with a gradient of 5%-50% methyl tert-butyl ether in hexane, to afford the product (98 mg, 78%) as a solid, m.p. 167.2-173° C.;

reactant | 3,9-difluoro-5-[(3-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine | 0.37 mmol, 150 mg | FC=1C=CC=2C3=CC(=CC=C3C(N(C2C1)S(=O)(=O)C1=CC(=CC=C1)OC)C)F | C21H17F2NO3S
reactant | cyclohexene | 7.5 mmol, 757 μL | C1=CCCCC1 | C6H10
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 2.24 mL | ClCCl | CH2Cl2
product | 3-[(3,9-Difluoro-6-methylphenanthridin-5(6H)-yl)sulfonyl]phenol | FC=1C=CC=2C3=CC(=CC=C3C(N(C2C1)S(=O)(=O)C=1C=C(C=CC1)O)C)F | C20H15F2NO3S
